US08071581B2
Compound 171: 3-[1-(1-Ethyl-azetidin-3-yl)-1H-pyrazol-4-yl]-6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline
To 3-(1-azetidin-3-yl-1H-pyrazol-4-yl)-6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline (50 mg, 0.126 mmol) in dichloromethane (3 mL) was added acetaldehyde (15 uL, 0.505 mmol). The solution was stirred at room temperature for 15 minutes and then sodium triacetoxyborohydride (67 mg, 0.136) was added. After 1 hour the solution was diluted with dichloromethane (1.5 mL) and washed with sodium bicarbonate (1.5 mL). The aqueous layer was extracted further with dichloromethane (1.5 mL). The combined dichloromethane layers were washed with brine (3 mL) and dried over Na2SO4. The filtrate was concentrated in vacuo onto silica gel and purified by flash chromatography (SiO2, CH2Cl2:CH3OH 100:0-90:10) to return the title compound (4.8 mg, 9% yield). Analytical data presented in Table 2.

reactant | 3-(1-azetidin-3-yl-1H-pyrazol-4-yl)-6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline | 0.126 mmol, 50 mg | N1CC(C1)N1N=CC(=C1)C=1C=NC2=CC=C(C=C2C1)CC1=NN=C2N1N=C(C=C2)C | C22H20N8
reactant | acetaldehyde | 0.505 mmol, 15 uL | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 67 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 3-[1-(1-Ethyl-azetidin-3-yl)-1H-pyrazol-4-yl]-6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline | 4.8 mg, 9% yield | C(C)N1CC(C1)N1N=CC(=C1)C=1C=NC2=CC=C(C=C2C1)CC1=NN=C2N1N=C(C=C2)C | C24H24N8
